US07109186B2
Compound 856: 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methoxy-(4-methylbenzyl)-amide
Reaction of 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-N-(4-methylbenzyl)-acetamide (0.30 g, 0.98 mmol) with the paraformaldehyde-N-(2-aminoethyl)morpholine adduct in methanol using a procedure similar to the one described in the preparation of compound 13 gave 0.17 g (45% yield) of the title compound as a solid. 1HNMR 400 MHz (CDCl3) δ (ppm); 2.35 (3H, s, CH3), 2.47 (4H, m, 2×NCH2), 2.56 (2H, t, J=6.2 Hz, NCH2), 3.62 (2H, t, J=6.2 Hz, NCH2), 3.66 (4H, m, 2×OCH2), 3.71 (3H, s, OCH3), 4.27 (2H, s, NCH2), 4.85 (2H, s, NCH2), 7.14–7.24 (4H, m, aromatics). HRMS (FAB+) calculated for C20H28N3O5: [M+H]+: 390.202896. found: 390.203567.

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methoxy-N-(4-methylbenzyl)-acetamide | 0.98 mmol, 0.30 g | CC1(OC(C(O1)=CC(=O)N(CC1=CC=C(C=C1)C)OC)=O)C | C16H19NO5
reactant | paraformaldehyde N-(2-aminoethyl)morpholine | C=O.NCCN1CCOCC1
solvent | methanol | CO | CH4O
product | 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methoxy-(4-methylbenzyl)-amide | 0.17 g, 45% yield | CON(C(=O)C=1CN(C(C1O)=O)CCN1CCOCC1)CC1=CC=C(C=C1)C | C20H27N3O5
